US07576082B2
To a solution of pyridine-2,5-dicarboxylic acid-2-methyl ester (0.5 g, 2.76 mmol)) (from Example 83a supra) at −10° C. in acetone (9.16 mL) was added triethylamine (0.385 mL, 2.76 mmol) (Aldrich), followed by the addition of ethyl chloroformate (0.265 mL, 2.76 mmol). (Aldrich). After the mixture was stirred at −10° C. for 30 minutes, an aqueous solution of sodium azide (0.53 g, 8.28 mmol) in water (10 mL) was added. The mixture was warmed up and stirred at room temperature for 1 hour, then concentrated to half volume, extracted with dichlormethane. The combined organic layer was washed with water, brine, dried over MgSO4 and concentrated to give 5-azidocarbonyl-pyridine-2-carboxylic acid methyl ester as a white solid (Yield 0.47 g, 83%).

reactant | pyridine-2,5-dicarboxylic acid-2-methyl ester | 2.76 mmol, 0.5 g | COC(=O)C1=NC=C(C=C1)C(=O)O | C8H7NO4
reactant | triethylamine | 2.76 mmol, 0.385 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.76 mmol, 0.265 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 8.28 mmol, 0.53 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 9.16 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | 5-azidocarbonyl-pyridine-2-carboxylic acid methyl ester | Yield 0.47 g, 83% | COC(=O)C1=NC=C(C=C1)C(=O)N=[N+]=[N-] | C8H6N4O3
